US08859777B2
Step 1: Preparation of 4-(3-benzyloxyphenyl)-1-(3-cyclohexylpropyl)-4-fluoro-3-methylpiperidine Hydrochloride.
This material was prepared by the alkylation of 4-(3-benzyloxyphenyl)-4-fluoro-3-methylpiperidine hydrochloride with 1-bromo-3-cyclohexylpropane and subsequent salt formation with methanolic hydrogen chloride as described in Step 3 of Example 1 in 48% overall yield.

reactant | 4-(3-benzyloxyphenyl)-4-fluoro-3-methylpiperidine hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(CNCC1)C)F
reactant | 1-bromo-3-cyclohexylpropane | BrCCCC1CCCCC1 | C9H17Br
reactant | hydrogen chloride | Cl | ClH
product | 4-(3-benzyloxyphenyl)-1-(3-cyclohexylpropyl)-4-fluoro-3-methylpiperidine Hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(CN(CC1)CCCC1CCCCC1)C)F | InChI=1S/C28H38FNO.ClH/c1-23-21-30(18-9-14-24-10-4-2-5-11-24)19-17-28(23,29)26-15-8-16-27(20-26)31-22-25-12-6-3-7-13-25;/h3,6-8,12-13,15-16,20,23-24H,2,4-5,9-11,14,17-19,21-22H2,1H3;1H
